US05565606
Methyl 4-hydroxymethylphenoxyacetate
18.2 g of 4-hydroxymethylphenoxyacetic acid are dissolved together with 17.1 ml of N,N-diisopropylethylamine in 50 ml of DMF, and then 6.1 ml of methyl iodide are added to the stirred solution. The mixture warms slightly during this. The reaction is complete after 3 h. The solvent is removed in vacuo. The residue is taken up in ether, and the solution is extracted once with 0.5 N hydrochloric acid. The aqueous phase is then extracted three times with ether, and the combined ether phases are washed with aqueous sodium bicarbonate solution and concentrated. The residue is dissolved in ethyl acetate and filtered through a short silica gel column. The pale yellowish oil which is obtained after concentration crystallizes on being left to stand.

reactant | 4-hydroxymethylphenoxyacetic acid | 18.2 g | OCC1=CC=C(OCC(=O)O)C=C1 | C9H10O4
reactant | N,N-diisopropylethylamine | 17.1 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methyl iodide | 6.1 ml | CI | CH3I
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | Methyl 4-hydroxymethylphenoxyacetate | OCC1=CC=C(OCC(=O)OC)C=C1 | C10H12O4
